US07696223B2
c) {[2-(4-Cyano-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 2-(4-cyano-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (111 mg, 0.34 mmole) and glycine (512 mg, 6.82 mmole) in 0.5 M sodium methoxide/methanol (13 ml, 6.48 mmole) was refluxed for 45 h before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (35 ml) and extracted with methyl tert-butyl ether (2×25 ml). The remaining aqueous layer was acidified to pH=3 with 1N HCl (9 ml). The suspension was extracted with chloroform/isopropanol (3:1, 35 ml). The organic suspension was concentrated, washed with water and dried in vacuo to give the title compound as a brown solid (52 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.52 (t, 1H), 8.90 (s, 1H), 8.30 (d, 1H, J=8.2 Hz), 8.04 (d, 1H, J=8.2 Hz), 4.00 (d, 2H, J=5.8 Hz); MS: (+) m/z 355.22 (M+1).

reactant | 2-(4-cyano-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.34 mmole, 111 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=C(C=C2)C#N)O | C16H11N3O3S
reactant | glycine | 6.82 mmole, 512 mg | NCC(=O)O | C2H5NO2
reactant | sodium methoxide methanol | 6.48 mmole, 0.5 M, 13 ml | C[O-].[Na+].CO
product | {[2-(4-Cyano-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 52 mg | C(#N)C1=CC=C(C=C1)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C16H10N4O4S
